US07750154B2
N-cyclopropyl-3-[6-[(1-cyclopropylpiperidine-4-yl)oxy]-4-oxoquinazolin-3(4H)-yl]-4-methylbenzamide (AZ12261875)
Using an analogous procedure to that described in Example 1, 2-amino-N-{5-[(cyclopropylamino)carbonyl]-2-methylphenyl}-5-[(1-cyclopropylpiperidine-4-yl)oxy] benzamide was reacted with triethylorthoformate. There was thus obtained the title compound (0.063 g); NMR Spectrum: (DMSOd6) −0.01 (m, 2H), 0.12 (m, 2H), 0.27 (m, 2H), 0.40 (m, 2H), 1.34 (m, 3H), 1.65 (m, 2H), 1.84 (s, 3H), 2.18 (m, 2H), 2.53 (m, 3H), 4.28 (m, 1H), 7.23 (m, 2H), 7.29 (s, 1H), 7.43 (d, 1H), 7.53 (s, 1H), 7.60 (d, 1H), 7.89 (s, 1H), 8.14 (s, 1H); Mass Spectrum: M+H+ 459.

reactant | 2-amino-N-{5-[(cyclopropylamino)carbonyl]-2-methylphenyl}-5-[(1-cyclopropylpiperidine-4-yl)oxy] benzamide | NC1=C(C(=O)NC2=C(C=CC(=C2)C(=O)NC2CC2)C)C=C(C=C1)OC1CCN(CC1)C1CC1 | C26H32N4O3
reactant | triethylorthoformate | C(C)OC(OCC)OCC | C7H16O3
product | N-cyclopropyl-3-[6-[(1-cyclopropylpiperidine-4-yl)oxy]-4-oxoquinazolin-3(4H)-yl]-4-methylbenzamide | 0.063 g | C1(CC1)NC(C1=CC(=C(C=C1)C)N1C=NC2=CC=C(C=C2C1=O)OC1CCN(CC1)C1CC1)=O | C27H30N4O3
